US08685964B2
Step 2: 2-(2-Methyl-1,3-dioxolan-2-yl)-6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine
In 100 ml of 1,1,1-benzotrifluoride, 0.13 g (0.49 mmol) of 1-[6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridin-2-yl]ethanone, 0.1 g (0.58 mmol) of 4-toluenesulphonic acid and 1.8 ml (32 mmol) of 1,2-ethanediol were heated under reflux in a reflux apparatus with Soxleth extractor which had been charged with 4 Å molecular sieve for 2 h. The reaction mixture concentrated by evaporation, ethyl acetate, dil. aqueous sodium hydroxide solution, citrate buffer to pH=9 and also aq. NaCl were added to the residue, the aqueous phase was extracted twice with ethyl acetate, the combined organic phases were dried with MgSO4 and concentrated by evaporation. The residue was purified by chromatography on silica gel (petroleum ether/acetone).

reactant | 1-[6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridin-2-yl]ethanone | 0.49 mmol, 0.13 g | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C(C)=O | C15H12N4O
reactant | 4-toluenesulphonic acid | 0.58 mmol, 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,2-ethanediol | 32 mmol, 1.8 ml | C(CO)O | C2H6O2
product | 2-(2-Methyl-1,3-dioxolan-2-yl)-6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine | CC1(OCCO1)C1=NC(=CC=C1)C=1C=NN(C1)C=1C=NC=CC1 | C17H16N4O2
